US08076486B2
2-{5-[3-(2-Fluoro-4-iodo-phenylamino)-pyridin-4-yl]-[1,3,4]oxadiazol-2-ylamino}-ethanol
To a solution of {5-[3-(2-Fluoro-4-iodo-phenylamino)-pyridin-4-yl]-[1,3,4]oxadiazol-2-ylamino}-acetic acid methyl ester (400 mg, 0.85 mmol, 1 eq) in THF (5 mL) LiBH4 (37 mg, 1.7 mmol, 2 eq) was added. The reaction mixture was stirred at RT for 20 hrs and then quenched with methanol and then added water. The solvent was partially removed and EtOAc was added. A solid precipitated out that was filtered to give the desired product (190 mg). LC/MS (Method A) [4.48 min; 442(M+1)]

reactant | {5-[3-(2-Fluoro-4-iodo-phenylamino)-pyridin-4-yl]-[1,3,4]oxadiazol-2-ylamino}-acetic acid methyl ester | 0.85 mmol, 400 mg, 1 eq | COC(CNC=1OC(=NN1)C1=C(C=NC=C1)NC1=C(C=C(C=C1)I)F)=O | C16H13FIN5O3
reactant | THF | 1.7 mmol, 5 mL, 37 mg, 2 eq | C1CCOC1 | C4H8O
product | 2-{5-[3-(2-Fluoro-4-iodo-phenylamino)-pyridin-4-yl]-[1,3,4]oxadiazol-2-ylamino}-ethanol | 190 mg | FC1=C(C=CC(=C1)I)NC=1C=NC=CC1C1=NN=C(O1)NCCO | C15H13FIN5O2
